US06534445B1
5.7 g (10 mmol) of (3-methoxycarbonyl-6-trifluoromethylpyridine-2-ylmethyl)triphenyl-phosphonium bromide are dissolved at room temperature in a 2-phase system of 25 ml of chloroform and 2.1 g (20 mmol) of sodium carbonate and reacted, in 10 ml of water, with a 35% aqueous solution of 1.7 g (20 mmol) of formaldehyde. After 1.5 hours, the organic phase is separated off and filtered through silica gel. Methyl 2-vinyl-6-trifluoromethylnicotinate is obtained as an oil, 1H-NMR (CDCl3): 8.31, d, CH, 7.10, dd, CH, 7.09, d, CH, 6.68, dd, CH, 5.68, dd, CH, 3.97 ppm, s, OCH3.

reactant | (3-methoxycarbonyl-6-trifluoromethylpyridine-2-ylmethyl)triphenyl-phosphonium bromide | 10 mmol, 5.7 g | [Br-].COC(=O)C=1C(=NC(=CC1)C(F)(F)F)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium carbonate | 20 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | formaldehyde | 20 mmol, 1.7 g | C=O | CH2O
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 10 ml | O | H2O
product | Methyl 2-vinyl-6-trifluoromethylnicotinate | C(=C)C1=C(C(=O)OC)C=CC(=N1)C(F)(F)F | C10H8F3NO2
